US03963709
When the t-butyl ester of 7-ADCA is acylated with cyanomethylsulfonylacetic acid by the procedure of Example 5, 7-cyanomethylsulfonylacetamido-3-methyl-3-cephem-4-carboxylic acid is obtained.

reactant | 7-ADCA | CC1=C(N2[C@@H]([C@@H](C2=O)N)SC1)C(=O)O | C8H10N2O3S
reactant | cyanomethylsulfonylacetic acid | C(#N)CS(=O)(=O)CC(=O)O | C4H5NO4S
product | 7-cyanomethylsulfonylacetamido-3-methyl-3-cephem-4-carboxylic acid | C(#N)CS(=O)(=O)CC(=O)NC1[C@@H]2N(C(=C(CS2)C)C(=O)O)C1=O | C12H13N3O6S2
